US05332757
Using an analogous procedure to that described in Example 15, 4'-[4-bromo-2-(4-methoxytetrahydropyran-4-yl)thiazol-5-ylthio]acetophenone was reacted with hydroxylamine hydrochloride to give (E)-4'-[4-bromo-2-(4-methoxytetrahydropyran-4-yl)thiazol-5-ylthio]acetophenone oxime in 96% yield, m.p. 130° C.;

reactant | 4'-[4-bromo-2-(4-methoxytetrahydropyran-4-yl)thiazol-5-ylthio]acetophenone | BrC=1N=C(SC1SC1=CC=C(C=C1)C(C)=O)C1(CCOCC1)OC | C17H18BrNO3S2
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-4'-[4-bromo-2-(4-methoxytetrahydropyran-4-yl)thiazol-5-ylthio]acetophenone oxime | 96% yield | BrC=1N=C(SC1SC1=CC=C(C=C1)/C(/C)=N/O)C1(CCOCC1)OC | C17H19BrN2O3S2
